US05116981
6-[1-[6-(3-Hydroxy-undec-1ynyl)-pyridine-2yl]-methyl]-pyran-2-one
3-Hydroxy-undec-1-yne (202 mg, 1.2 mmole) and 6-[1-[6-bromopyridine-2yl]methyl]pyran-2-one (270 mg, 1 mmole) are combined in 4 ml triethylamine in a 25 ml one-neck round bottom flask under argon. The mixture is treated with (bis)triphenylphosphine palladium dichloride (14 mg, 0.02 mmole), warmed to 55° C., and is treated with cuprous iodide (2 mg, 0.01 mmole). The reaction mixture is stirred one hour at 55° C., cooled to room temperature, and the volatiles are removed in vacuo. The residue is partitioned between 1×10 ml diethyl ether and 1×10 ml saturated sodium chloride/ammonium chloride (1:1). The aqueous layer is extracted with 3×10 ml diethyl ether. The combined organics are dried over magnesium sulfate and concentrated in vacuo to a brown oil.

reactant | 3-Hydroxy-undec-1-yne | 1.2 mmole, 202 mg | OC(C#C)CCCCCCCC | C11H20O
reactant | 6-[1-[6-bromopyridine-2yl]methyl]pyran-2-one | 1 mmole, 270 mg | BrC1=CC=CC(=N1)CC1=CC=CC(O1)=O | C11H8BrNO2
solvent | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
product | 6-[1-[6-(3-Hydroxy-undec-1ynyl)-pyridine-2yl]-methyl]-pyran-2-one | OC(C#CC1=CC=CC(=N1)CC1=CC=CC(O1)=O)CCCCCCCC | C22H27NO3
